US08071600B2
A dichloromethane solution (4 ml) of 4-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-3-methoxy-5-methylphenylamine (0.2 g, 0.49 mmol) was cooled on ice. To this, N-ethyldiisopropylamine (0.15 ml, 0.87 mmol) and ethane sulfonylchloride (0.07 ml, 0.73 mmol) were added and the mixture was stirred at room temperature for one hour. Further, N-ethyldiisopropylamine (0.15 ml, 0.87 mmol) and ethane sulfonylchloride (0.07 ml, 0.73 mmol) were added and the mixture was stirred at room temperature for 19 hours. To this, an aqueous 6N-sodium hydroxide solution (0.5 ml) and ethanol (2 ml) were added and the mixture was stirred at room temperature overnight. Dichloromethane was added to the reaction solution, which was then washed with water. The organic layer was dried over anhydrous magnesium sulfate and thereafter concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (n-hexane:ethyl acetate=2:1→0:1). The purified product was concentrated under reduced pressure. 4N-hydrochloride/ethyl acetate solution was added to the residue. The crystal generated was filtrated and dried to obtain ethanesulfonic acid {4-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-3-methoxy-5-methyl-phenyl}amide hydrochloride (222 mg, 85% yield) as white powder.

reactant | 4-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-3-methoxy-5-methylphenylamine | 0.49 mmol, 0.2 g | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCOC2=C(C=C(C=C2C)N)OC | C23H29N3O2S
reactant | N-ethyldiisopropylamine | 0.87 mmol, 0.15 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | ethane sulfonylchloride | 0.73 mmol, 0.07 ml | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | N-ethyldiisopropylamine | 0.87 mmol, 0.15 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | ethane sulfonylchloride | 0.73 mmol, 0.07 ml | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | sodium hydroxide | 0.5 ml | [OH-].[Na+]
solvent | Dichloromethane | ClCCl | CH2Cl2
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | ethanesulfonic acid {4-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-3-methoxy-5-methyl-phenyl}amide hydrochloride | 222 mg, 85% yield | Cl.S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCOC2=C(C=C(C=C2C)NS(=O)(=O)CC)OC | InChI=1S/C25H33N3O4S2.ClH/c1-4-34(29,30)26-20-17-19(2)25(23(18-20)31-3)32-15-6-10-27-11-13-28(14-12-27)22-7-5-8-24-21(22)9-16-33-24;/h5,7-9,16-18,26H,4,6,10-15H2,1-3H3;1H
